US05175178
A suspension of 6.42 g ethyl 3,5-dimethyl-4-hydroxybenzoate, 5.5 g potassium iodide, 3.7 g 1-chloro-4-pentyne and 2.3 g powdered potassium hydroxide in 650 ml acetonitrile was heated at reflux under nitrogen for 16 hrs. The mixture was filtered, concentrated in vacuo and subjected to flash filtration (silica gel, 4:1 hexane/ethyl acetate) to give 7.4 g ethyl 3,5-dimethyl-4-(3-ethynylpropoxy)benzoate as a yellow oil.

reactant | ethyl 3,5-dimethyl-4-hydroxybenzoate | 6.42 g | CC=1C=C(C(=O)OCC)C=C(C1O)C | C11H14O3
reactant | potassium iodide | 5.5 g | [I-].[K+]
reactant | 1-chloro-4-pentyne | 3.7 g | ClCCCC#C | C5H7Cl
reactant | potassium hydroxide | [OH-].[K+]
solvent | acetonitrile | 650 ml | C(C)#N | C2H3N
product | ethyl 3,5-dimethyl-4-(3-ethynylpropoxy)benzoate | 7.4 g | CC=1C=C(C(=O)OCC)C=C(C1OCCCC#C)C | C16H20O3
